US05807859
To a stirred mixture of 6.7 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 140 ml of dimethyl sulphoxide and 4.15 g of glyoxylic acid monohydrate, under an argon atmosphere, are added portionwise 4.95 g of 80% sodium hydride while maintaining the temperature at about 20° C. The stirring is continued for 18 hours, and the reaction medium is acidified using acetic acid (11 ml) and is heated at a temperature in the region of 80° C. for 2 hours. The reaction mixture is filtered and the solid is washed with acetone (3×75 ml), with methanol (75 ml), again with acetone (2×75 ml) and dried under vacuum (1 mmHg; 0.13 kPa). The light-beige-coloured solid obtained (10.1 g) is dissolved in 500 ml of distilled water and the aqueous solution is washed with ethyl acetate (2×100 ml), then treated with 0.5 g of animal black and filtered. The filtrate is acidified with 45 ml of 1N hydrochloric acid and the precipitate formed is filtered off, washed with distilled water (50 ml) and with acetone (3×75 ml), and dried at 70° C. under vacuum (1 mmHg; 0.13 kPa). 5.7 g of (4,5-dihydro-4-oxo-10H-imidazo(1,2-a]indeno[1,2-e]pyrazin-10-yl)glycolic acid are obtained in the form of a pale yellow solid melting above 260° C. (1H NMR spectrum (200 MHz, (CD3)2 SO-d6, δ in ppm): 4.60 (d, J=3 Hz, 1H: H 10); 5.09 (d, J=3 Hz, 1H: CHO); 5.60 (broad mult., 1H: OH); from 7.25 to 7.50 (mt, 2H: H 7 and H 8); 7.45 and 7.85 (2 broad d, J=7.5 Hz, 1H each: H 6 and H 8); 7.57 and 8.23 (2 broad s, 1H each: H of the imidazole); 12.35 (broad s, 1H: NH 5)).

reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 6.7 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | dimethyl sulphoxide | 140 ml | CS(=O)C | C2H6OS
reactant | glyoxylic acid monohydrate | 4.15 g | O.C(C=O)(=O)O
reactant | sodium hydride | 4.95 g | [H-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | (4,5-dihydro-4-oxo-10H-imidazo(1,2-a]indeno[1,2-e]pyrazin-10-yl)glycolic acid | 5.7 g | O=C1C=2N(C3=C(N1)C=1C=CC=CC1C3C(C(=O)O)O)C=CN2 | C15H11N3O4
